### PR TITLE
feat: add finite-dimensional induction

### PR DESCRIPTION
**Pull request by kim-em**
This PR constructs the explicit finite-index coset model for induced representations, proves that induction preserves finite-dimensionality, computes its dimension, and packages the result as the roadmap’s `indFDRep`.

This advances `TauCetiRoadmap/RepresentationTheory/InductionRestriction/README.md`, Layer 2, item “Induction preserves finite-dimensionality, via an explicit coset model.” It supplies the named linear equivalence from coinduction to a product indexed by right cosets, transfers it to induction through Mathlib’s finite-index comparison, proves the general formula `finrank k (Rep.ind S.subtype A) = S.index * finrank k A`, and derives the `FDRep` form.

This is the lowest-hanging distinct target because induction/coinduction transitivity and conjugate representations have merged, while no open RepresentationTheory PR covers finite-dimensional induction. Mathlib already supplies `Rep.indCoindIso`; the missing coset-coordinate equivalence is the direct next input required before the roadmap’s induced-character formula can take traces.

Reuse Mathlib’s `Rep.indCoindIso`, `Representation.coindV`, `QuotientGroup.rightRel`, `Subgroup.fintypeQuotientOfFiniteIndex`, `QuotientGroup.card_quotient_rightRel`, and `Module.finrank_pi_fintype`. Vendor no Mathlib infrastructure, and copy or adapt no material from the supplementary source snapshot or another formalization.

Add `TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean` (205 lines). `lake exe cache get` reports `No files to download` and `Already decompressed 8640 file(s)`. `lake build` reports `Build completed successfully (5568 jobs).` `lake exe axioms` reports `axioms: audited 12637 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

🤖 Prepared with Codex

### CODE REVIEW

**Comment by kim-em** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The coset equivalence, transported action, finite-dimensionality instance, dimension formula, and FDRep functor faithfully model finite-index induction without vacuous or displaced hypotheses. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No material duplication found. The coset model and finite-dimensional induction API are absent from Mathlib and TauCeti, and the implementation reuses the relevant existing induction comparison, product-finrank, and quotient-cardinality declarations. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR directly implements Layer 2’s named finite-dimensional induction target and its reusable coset model as one coherent unit. The roadmap explicitly identifies this result as Layer 2’s first target, so the absent Layer 0 projection formula does not make it premature. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The file credits the roadmap target and specifically identifies the Mathlib `Rep.coindFunctor` proof whose coset-factor construction and proof plan it adapts. No other identifiable source requiring attribution is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public surface provides the explicit coset model, action and inverse formulas, finite-dimensionality and dimension results, and a functorial FDRep interface characterized under the forgetful functor. Definitions remain opaque except for the narrowly exposed functor projections required by the generated API. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The Rep-level results use independent scalar, group, and carrier universes, while the same-universe FDRep wrappers match Mathlib’s current universe constraint and the roadmap API. No materially unused or overly strong assumptions remain. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations are naturally placed in `RepresentationTheory/Induction/FiniteDimensional.lean`, matching the roadmap’s suggested `Induction/` home. Each import directly supplies APIs used by the file, with no evidently unused or overly broad import. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions using established Mathlib terminology and adjacent TauCeti conventions. No notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The module docstring accurately describes the file’s contents and provenance, and every public declaration has useful documentation matching its statement. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | Proofs are concise and structured around reusable lemmas. Every `change` is locally documented, and the unavoidable definitional identification is isolated and explained by `indFDRepForgetIso`. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/648c600d38e696cc033982185ac2f44695e0a58d...62e8c93bb44c67553f1f1c98441cbdfef4f5c0b2) at head `62e8c93`. rubrics @ [`65ae7f0`](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics). Review spend: $8.47.</sub>

File: TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean
Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ reuse — now passing on `6fe2925`.

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ api-design — now passing on `62e8c93`.

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ generality — now passing on `62e8c93`.

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ proof-quality — now passing on `cd55eeb`.

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Both points are addressed in 682d7de3, with one deliberate deviation on the name.

**Functorial induction.** Added `indFDRepFunctor : FDRep k S ⥤ FDRep k G`, whose morphism map is `Rep.indFunctor k S.subtype` transported back along the fully faithful `forget₂ (FDRep k G) (Rep k G)` (Mathlib provides both `Functor.Full` and `Functor.Faithful` instances for it, `Mathlib/RepresentationTheory/FDRep.lean:180,184`), plus `indFDRepForgetNatIso : indFDRepFunctor ⋙ forget₂ (FDRep k G) (Rep k G) ≅ forget₂ (FDRep k S) (Rep k S) ⋙ Rep.indFunctor k S.subtype`.

The deviation: the functor is named `indFDRepFunctor`, and `indFDRep` stays the object-level definition, rather than `indFDRep` itself becoming the functor. Two reasons.

1. The roadmap pins `indFDRep` as object-level. `TauCetiRoadmap/RepresentationTheory/InductionRestriction/Suggested.lean:103` reads

   ```
   noncomputable def indFDRep {S : Subgroup G} [S.FiniteIndex] (A : FDRep k S) : FDRep k G := sorry
   ```

   and the downstream pinned targets consume it applicatively, e.g. `finrank_indFDRep` (line 106) and `character_indFDRep_sum_quotient` (line 115) both write `(indFDRep A)`. `FDRep k S ⥤ FDRep k G` has no `CoeFun`, so making `indFDRep` the functor would break every one of those pinned statements.

2. This matches Mathlib's own convention for exactly this pair: `Rep.ind φ A` is the object-level definition and `Rep.indFunctor k φ` is the functor (`Mathlib/RepresentationTheory/Induced.lean:104,117`). `indFDRep`/`indFDRepFunctor` is the same split one level up.

Both are exported and documented, so the categorical consumers get the functor and the character consumers keep the applicative form.

**Application lemmas.** Added `@[simp] indSubtypeEquivPi_apply` and `@[simp] indSubtypeEquivPi_symm_apply`, characterising the equivalence through `Rep.indCoindIso` and `coindSubtypeEquivPi`. Stating them required `indSubtypeEquivPi` to take `[DecidableRel (QuotientGroup.rightRel S)]` as an instance argument rather than picking it internally with `Classical.decRel`; that is the same instance argument `Rep.indCoindIso` itself carries in Mathlib, and the two consumers (`finiteDimensional_ind`, `finrank_ind`) are Prop-valued so they just `letI` a classical instance.

`lake build` reports `Build completed successfully (5568 jobs).` and `lake exe axioms` reports `axioms: audited 12646 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `682d7de`; this clears the finding ✅ — approved on `682d7de`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3661797095.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Addressed the implementable part in 6fe2925d: the entire `Rep` coset-model and dimension API now uses independent `{k : Type u}` / `{G : Type v}` binders and `Rep.{max u v}`, exactly as suggested.

The same change is not available for the `FDRep` wrappers without changing their already-approved API. Mathlib defines `FDRep.{u,v} k G` using `FGModuleCat.{u} k`, so every carrier is in `Type u`; correspondingly `FDRep.of` requires `{V : Type u}`. But `Rep.ind` along a subgroup of `G : Type v` returns a carrier in `Type (max u v)`. An empirical attempt to give `indFDRep` independent `{k : Type u}` / `{G : Type v}` binders and package that induced representation fails at `FDRep.of` because its carrier has the wrong universe. Trying to widen `FDRep` itself also fails immediately: Lean reports that `k : Type u` is expected to have type `Type (max u v)` in `FDRep k`. Mathlib flags this upstream limitation itself with `TODO : Fix the universe constraint` in `Mathlib/RepresentationTheory/FiniteIndex.lean:27`.

Generalizing the FDRep portion would therefore require a new small-carrier model plus cross-universe lifting and would destroy the current definitional `indFDRepForgetIso` / forgetful natural-isomorphism API that api-design already approved. The pushed change takes the maximum generality Mathlib presently permits without that API regression.

Verified after the change: `lake build` — `Build completed successfully (5568 jobs).`; `lake exe axioms` — `axioms: audited 12646 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `6fe2925`; this clears the finding ✅ — approved on `6fe2925`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3662837986.</sub>

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ⛔ attribution — block  `codex/gpt-5.6-sol`

The central coset construction closely follows an identifiable Mathlib proof but does not credit it.

- `TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:47` — The representative-factor construction and equivariance proof closely adapt Mathlib’s proof that `coindFunctor` preserves epimorphisms, but the References section credits only the roadmap. _Fix:_ Credit `Mathlib.RepresentationTheory.Coinduced`, specifically the `PreservesEpimorphisms` instance for `coindFunctor`, as the source of the coset-representative construction and proof plan.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 24s · 115.5k in / 879 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/b25fed1b7ed38d6d95be803dbae2eab4ac7240da...6fe2925d4eb0837dccfc34b8b699610e86dc2b6d) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/attribution.md)</sub>

**Comment by kim-em** [comment]
🔍 Review in progress — `claude` reviewing `1179eb173f88`.

**Comment by eohjelle** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The coset-coordinate equivalence correctly reconstructs coinduced functions from right-coset representatives, and the finite-index comparison yields the stated finite-dimensionality and finrank results. No semantic mismatch, vacuity, or substituted prerequisite is evident. |
| ♻️ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/reuse.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | No existing Mathlib or TauCeti declaration directly replaces the new coset model, finite-dimensionality result, dimension formula, or FDRep packaging; the implementation reuses the relevant existing finite-index and finrank APIs. |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/scope.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The PR directly implements the cited Layer 2 finite-dimensional induction target as one coherent unit: the explicit coset model, finrank computation, and FDRep packaging are all parts of that target. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The file credits the roadmap target and explicitly identifies the Mathlib `Rep.coindFunctor` proof from which the coset-factor construction and proof plan were adapted. No additional identifiable source requires attribution. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The functor API is present, but its entire implementation is exposed solely to generate projection lemmas. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations sit at the natural available levels: the coset model is ring-general, dimension results use the necessary field and finite-index hypotheses, and the Rep-level universe generality is maximal without exceeding Mathlib’s FDRep constraints. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/placement.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The declarations are naturally grouped under RepresentationTheory/Induction/FiniteDimensional, and each listed import directly supports the coset model, finite-index comparison, dimension calculation, or FDRep packaging. |
| ♻️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow nearby representation-theory terminology, and introduce no notation. |
| ♻️ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/documentation.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new module has an accurate module docstring, and each public definition, theorem, and exported instance is documented with its purpose and scope. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | Proofs are concise and factor the coset reasoning into explicit helper lemmas. Uses of `change` and the single definitional identification are documented and localized behind `indFDRepForgetIso`; subsequent functorial proofs use explicit categorical cancellation. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/648c600d38e696cc033982185ac2f44695e0a58d...1a1dcb828c21b352ad8d8bb811685e122f9149e1) at head `1a1dcb8`. rubrics @ [`65ae7f0`](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics). Review spend: $1.58.</sub>

File: TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean
Comment (eohjelle) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `1179eb1`; the finding stands — The dimension API is present, but its canonical normal-form lemmas are missing simplifier annotations.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3661797095.</sub>

Comment (eohjelle) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `1179eb1`; this clears the finding ✅ — approved on `1179eb1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3662837986.</sub>

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ proof-quality — now passing on `62e8c93`.

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Addressed in 4e8ab6d7 — the action formula is now available, but it cannot carry `@[simp]`, and CI proves that rather than it being a matter of taste.

**The lemma.** Added two theorems, one at each level:

- `TauCeti.Rep.coindSubtypeEquivPi_rho_apply`: `coindSubtypeEquivPi A ((Rep.coind S.subtype A).ρ g f) q = A.ρ (rightCosetFactor (q.out * g)) (coindSubtypeEquivPi A f ⟦q.out * g⟧)`
- `TauCeti.Rep.indSubtypeEquivPi_rho_apply`: the same statement with `Rep.ind` and `indSubtypeEquivPi`, obtained from the coinduced one through `Rep.hom_comm_apply` for `Rep.indCoindIso`.

That is exactly the shape you asked for: the coordinate permutation `q ↦ ⟦q.out * g⟧` composed with the action of `A.ρ (rightCosetFactor (q.out * g))`. A downstream trace computation now never has to unfold `Rep.indCoindIso` or `Representation.coindV`.

**Why not `@[simp]`.** I first pushed both with `@[simp]`, exactly as the finding asks, and ran the repo`s environment lint (`bash scripts/lint-env.sh`, the same script CI runs). simpNF rejects both:

```
lint-env: NEW violation(s) not in the grandfathered baseline (as '<linter> <declaration>'):
  [simpNF]
  #check @TauCeti.Rep.indSubtypeEquivPi_rho_apply /- Left-hand side simplifies from
    (TauCeti.Rep.indSubtypeEquivPi A) (((Rep.ind S.subtype A).ρ g) x) q
  to
    (TauCeti.Rep.indSubtypeEquivPi A)
      ((Representation.Coinvariants.map ... ) x) q
  using
    simp only [*, @Representation.ind_apply]
  Try to change the left-hand side to the simplified term! -/

  #check @TauCeti.Rep.coindSubtypeEquivPi_rho_apply /- Left-hand side simplifies from
    (TauCeti.Rep.coindSubtypeEquivPi A) (((Rep.coind S.subtype A).ρ g) f) q
  to
    (TauCeti.Rep.coindSubtypeEquivPi A) (((LinearMap.funLeft k ↑A fun x => x * g).restrict ⋯) f) q
  using
    simp only [*, @Representation.coind_apply]
  Try to change the left-hand side to the simplified term! -/
...
LINT-ENV: FAIL — 2 new violation(s); see the list above
```

The cause is upstream and unavoidable: `Representation.ind` and `Representation.coind` carry `@[simps]` in Mathlib (`Mathlib/RepresentationTheory/Induced.lean:78`, `Mathlib/RepresentationTheory/Coinduced.lean:80`), so `Representation.ind_apply` / `Representation.coind_apply` are simp lemmas that rewrite `(Rep.ind φ A).ρ g` to the raw `Coinvariants.map` / `LinearMap.funLeft` term. Any lemma whose left-hand side mentions `(Rep.ind φ A).ρ g` is therefore out of simp normal form by construction. Confirmed independently before the lint run: with the `@[simp]` attributes in place, `simp` on a goal that is literally the lemma statement fails, leaving `(Rep.indSubtypeEquivPi A) ((Representation.Coinvariants.map …) x) q = …` — the annotation was dead.

Mathlib makes the same call for its own action lemma of this shape: `Representation.ind_mk` (`Mathlib/RepresentationTheory/Induced.lean:86`) states `ind φ ρ h₁ (IndV.mk _ _ h₂ a) = IndV.mk _ _ (h₂ * h₁⁻¹) a` as a plain `lemma`, not `@[simp]`, and `Rep.hom_comm_apply` is likewise not `@[simp]`.

So both theorems ship without `@[simp]`, each with a docstring paragraph recording why. Silencing simpNF with `@[nolint simpNF]` for a lemma that provably cannot fire seemed strictly worse than stating it as an ordinary lemma the way Mathlib does.

Verified after the change: `lake build` — `Build completed successfully (5649 jobs).`; `lake exe axioms` — `axioms: audited 13503 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`; `bash scripts/lint-env.sh` — `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable).`

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Addressed in 4e8ab6d7, with one part of the suggested fix contested because the module system forbids it.

**What changed.** `indFDRepFunctor.map` no longer relies on the forgetful-wrapper defeq implicitly. It now conjugates explicitly by the named isomorphism:

```lean
map {A B} f := (forget₂ (FDRep k G) (Rep k G)).preimage
  ((indFDRepForgetIso A).hom ≫
    (Rep.indFunctor k S.subtype).map ((forget₂ (FDRep k S) (Rep k S)).map f) ≫
      (indFDRepForgetIso B).inv)
```

so both functor laws and the naturality square are now discharged by *cancelling* `indFDRepForgetIso`, with no `rfl` closer anywhere:

- `map_id`: `simp only [Functor.map_preimage, Functor.map_id, Rep.indFunctor_obj, Category.id_comp, Iso.hom_inv_id]`
- `map_comp`: `simp only [Functor.map_preimage, Functor.map_comp, Category.assoc, Iso.inv_hom_id_assoc]`
- naturality: `rw [h, Category.assoc, Category.assoc, Iso.inv_hom_id, Category.comp_id]`, where `h` is `Functor.map_preimage`

None of these three unfolds `indFDRep`, `FDRep.of`, or the forgetful functor. They are pure category-theoretic identities in `Rep k G`; the implementation of `indFDRep` could change to any other object isomorphic over `Rep k G` and all three would still go through. That is the substance of the finding, and it is fixed.

**Contested: the standalone compatibility *equality* lemma.** The fix asks to "prove an explicit compatibility equality/isomorphism lemma for forgetting `indFDRep`, define `indFDRepForgetIso` from it". I implemented exactly that first:

```lean
theorem forget₂_obj_indFDRep {k G : Type u} [Field k] [Group G] {S : Subgroup G}
    [S.FiniteIndex] (A : FDRep k S) :
    (forget₂ (FDRep k G) (Rep k G)).obj (indFDRep A) =
      Rep.ind S.subtype ((forget₂ (FDRep k S) (Rep k S)).obj A) :=
  rfl

noncomputable def indFDRepForgetIso ... := eqToIso (forget₂_obj_indFDRep A)
```

It does not compile:

```
error: TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:258:0: Not a definitional equality: the left-hand side
  (forget₂ (FDRep k G) (Rep.{u, u, u} k G)).obj (indFDRep A)
is not definitionally equal to the right-hand side
  Rep.ind S.subtype ((forget₂ (FDRep k ↥S) (Rep.{u, u, u} k ↥S)).obj A)

Note: This theorem is exported from the current module. This requires that all definitions that need to be unfolded to prove this theorem must be exposed.
```

Under Lean`s module system this file is a plain `public section`, not `@[expose] public section`, so `indFDRep`'s body is opaque to an exported *theorem*. Proving that equality as a theorem would require putting `@[expose]` on `indFDRep`, i.e. publishing its implementation — the opposite of insulating consumers from it. The isomorphism form has no such problem, because a `def` may use its own module`s definitions: `indFDRepForgetIso := Iso.refl _` typechecks, and its *statement* is the compatibility fact. So `indFDRepForgetIso` is the "explicit compatibility isomorphism lemma" your fix names, and it is now documented as the single point where the two objects are identified.

That leaves exactly one appeal to definitional equality in the file — inside `indFDRepForgetIso` itself — instead of four (the iso, two functor laws, and naturality), which is the minimum the construction admits: `indFDRep A` *is* `FDRep.of (Rep.ind S.subtype A').ρ`, so there is no non-definitional proof of the identification available at any level.

Verified: `lake build` — `Build completed successfully (5649 jobs).`; `lake exe axioms` — `axioms: audited 13503 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`; `bash scripts/lint-env.sh` — `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable).`

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Contesting this one: making `indFDRep` the functor would break the roadmap statements that are machine-checked against this PR, and both objects are already provided.

**The roadmap pins `indFDRep` as object-level.** `TauCetiRoadmap/RepresentationTheory/InductionRestriction/Suggested.lean:103` reads

```lean
noncomputable def indFDRep {S : Subgroup G} [S.FiniteIndex] (A : FDRep k S) : FDRep k G := sorry
```

and every downstream pinned target consumes it applicatively, not through `.obj`:

- `finrank_indFDRep` (line 106): `Module.finrank k (indFDRep A) = S.index * Module.finrank k A`
- `character_indFDRep_sum_quotient` (line 115): `(indFDRep A).character g = ...`
- `character_ind` (line 129), `frobenius_reciprocity` (line 145): `(indFDRep A).character g`
- `simple_indFDRep_iff_doubleCoset` (line 207), `simple_indFDRep_iff` (line 215): `Simple (indFDRep V)`

`FDRep k S ⥤ FDRep k G` has no `CoeFun`, so if `indFDRep` were the functor, none of those six pinned statements would elaborate. The README does say "packaged as an induction functor `FDRep k S ⥤ FDRep k G`" (README.md:162, 248) — but that is the prose describing the deliverable, while `Suggested.lean` is the version whose expressibility the roadmap machine-checks, and it fixes the object-level signature. The README`s requirement is met by `indFDRepFunctor`, which exists in this PR with exactly the type `FDRep k S ⥤ FDRep k G`, together with `indFDRepForgetNatIso` giving the README`s "isomorphism to `Rep.ind S.subtype` under the forgetful functor so `FDRep.character` applies".

**This is Mathlib`s own split for the same pair.** `Rep.ind φ A : Rep k H` is the object-level definition and `Rep.indFunctor k φ : Rep k G ⥤ Rep k H` is the functor (`Mathlib/RepresentationTheory/Induced.lean:104,117`); likewise `Rep.coind` / `Rep.coindFunctor` (`Mathlib/RepresentationTheory/Coinduced.lean:118,129`). `indFDRep` / `indFDRepFunctor` is that same convention one level up. Renaming so the functor takes the short name would put this file out of step with the two Mathlib definitions it is built directly on top of.

**This exact question was already reviewed and cleared here.** In round 1 I gave this argument (comment 3661797095) and the re-review answered: "re-reviewed on `682d7de`; this clears the finding ✅ — approved on `682d7de`" (comment 3661837967). The reply landed on the `api-design` thread because that round`s api-design finding raised the same naming point; the substance and the evidence are unchanged.

Both names are exported and documented, so categorical consumers get `indFDRepFunctor` and the pinned character-theory targets keep the applicative `indFDRep A`. No code change on this round for this finding; the current head is 4e8ab6d7.

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `4e8ab6d`; the finding stands — The action formula is now present, but the new opaque functor lacks its basic object/map projection API.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670522873.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `4e8ab6d`; the finding stands — The `Rep`-level API unnecessarily fixes the representation carrier to the universes of the field and group, excluding larger-universe representations supported by Mathlib.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670525444.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `4e8ab6d`; this clears the finding ✅ — approved on `4e8ab6d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670524254.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Fixed in 1a1dcb82 exactly as suggested: `universe u v w` and `A : Rep.{max u v w} k S` throughout the `Rep`-level coset-model and dimension API (`coindSubtypeEquivPi` and its three lemmas, `indSubtypeEquivPi` and its three lemmas, `finiteDimensional_ind`, `finrank_ind`). The `FDRep` wrappers keep the same-universe restriction, as your fix says.

One implementation note. Mathlib states `Rep.indCoindIso (A : Rep.{max w u} k S)` (`Mathlib/RepresentationTheory/FiniteIndex.lean:174`, the declaration carrying the file's `TODO : Fix the universe constraint`). With the carrier at `max u v w`, Lean cannot solve `max w u =?= max u v w` by itself:

```
error: failed to solve universe constraint
  max u w =?= max (max u v) w
while trying to unify
  Rep.{max w u, u, v} k ↥S
with
  Rep.{max u v w, u, v} k ↥S
```

so the three uses now pin the instantiation explicitly as `Rep.indCoindIso.{max u v w, u, v} A`, which is the intended `w := max u v w`. Nothing else changed.

Verified: `lake build` — `Build completed successfully (5649 jobs).`; `lake exe axioms` — `axioms: audited 13506 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`; `bash scripts/lint-env.sh` — `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable).`

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Fixed in 1a1dcb82: `indFDRepFunctor` now carries `@[simps obj map]`, giving

- `TauCeti.indFDRepFunctor_obj : indFDRepFunctor.obj A = indFDRep A`
- `TauCeti.indFDRepFunctor_map : indFDRepFunctor.map f = (forget₂ (FDRep k G) (Rep k G)).preimage ((indFDRepForgetIso A).hom ≫ (Rep.indFunctor k S.subtype).map ((forget₂ (FDRep k S) (Rep k S)).map f) ≫ (indFDRepForgetIso B).inv)`

both `@[simp]`, so consumers can rewrite the object action to `indFDRep` and the morphism action to transported induction without unfolding anything.

Making them exported theorems required `@[expose]` on `indFDRepFunctor`, since `@[simps]` proves both by `rfl` and the module system otherwise refuses:

```
error: Theorem TauCeti.indFDRepFunctor_obj has a `rfl`-proof but could not be validated as a definitional equality
Note: This theorem is exported from the current module. This requires that all definitions that need to be unfolded to prove this theorem must be exposed.
```

That is exactly the situation `@[expose]` is for, and it is the repo's existing idiom for functor definitions whose projections are the API (for instance `@[expose] noncomputable def pointsFunctor` in `TauCeti/Algebra/AlgebraicGroup/PointsFunctor.lean:101`). It changes no proof: `map_id`, `map_comp`, and the naturality of `indFDRepForgetNatIso` still go through `Functor.map_preimage` and cancellation of `indFDRepForgetIso`, with no `rfl` closer, so the single appeal to definitional equality remains isolated in `indFDRepForgetIso`. The docstring records why the definition is exposed.

`simpNF` accepts both new lemmas: `bash scripts/lint-env.sh` reports `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable).` Also verified: `lake build` — `Build completed successfully (5649 jobs).`; `lake exe axioms` — `axioms: audited 13506 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`

Comment (eohjelle) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `1a1dcb8`; the finding stands — The functor API is present, but its entire implementation is exposed solely to generate projection lemmas.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670743370.</sub>

Comment (eohjelle) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `1a1dcb8`; this clears the finding ✅ — approved on `1a1dcb8`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670742692.</sub>

Comment (eohjelle) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `1a1dcb8`; this clears the finding ✅ — approved on `1a1dcb8`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670524254.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Addressed in 1b16055e by shrinking what `@[expose]` publishes, rather than dropping it — dropping it makes the projection lemma you asked for in the previous round unstatable, and the compiler says so.

**What changed.** The morphism map is now a named definition, and the functor body is only its two projections:

```lean
noncomputable def indFDRepMap {A B : FDRep k S} (f : A ⟶ B) : indFDRep A ⟶ indFDRep B :=
  (forget₂ (FDRep k G) (Rep k G)).preimage
    ((indFDRepForgetIso A).hom ≫
      (Rep.indFunctor k S.subtype).map ((forget₂ (FDRep k S) (Rep k S)).map f) ≫
        (indFDRepForgetIso B).inv)

@[simp] theorem forget₂_map_indFDRepMap (f : A ⟶ B) :
    (forget₂ (FDRep k G) (Rep k G)).map (indFDRepMap f) =
      (indFDRepForgetIso A).hom ≫ (Rep.indFunctor k S.subtype).map ((forget₂ _ _).map f) ≫
        (indFDRepForgetIso B).inv

theorem indFDRepMap_id (A : FDRep k S) : indFDRepMap (𝟙 A) = 𝟙 (indFDRep A)
theorem indFDRepMap_comp (f : A ⟶ B) (g : B ⟶ C) :
    indFDRepMap (f ≫ g) = indFDRepMap f ≫ indFDRepMap g

@[expose, simps obj map]
noncomputable def indFDRepFunctor : FDRep k S ⥤ FDRep k G where
  obj A := indFDRep A
  map f := indFDRepMap f
  map_id A := indFDRepMap_id A
  map_comp f g := indFDRepMap_comp f g
```

`indFDRepMap` is **not** exposed: its only public characterization is `forget₂_map_indFDRepMap`, proved from its equation lemma plus `Functor.map_preimage`. `indFDRep` remains unexposed too. So the exposed body of `indFDRepFunctor` now consists solely of the public names `indFDRep` and `indFDRepMap`, i.e. exactly the content of `indFDRepFunctor_obj` and `indFDRepFunctor_map` — nothing beyond the projection API is published. That is the substance of "its entire implementation is exposed solely to generate projection lemmas": the implementation is no longer in the exposed definition.

**Why `@[expose]` cannot simply be removed.** I tested it. With `@[expose]` dropped and the projections written by hand rather than by `@[simps]`, the object projection still compiles (equation lemmas of unexposed definitions are public, which is how `coindSubtypeEquivPi_apply` is already proved in this file), but the morphism projection does not even typecheck as a *statement*:

```
error: TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:307:6: Type mismatch
  (forget₂ (FDRep k G) (Rep.{u, u, u} k G)).preimage (…)
has type
  indFDRep A ⟶ indFDRep B
but is expected to have type
  indFDRepFunctor.obj A ⟶ indFDRepFunctor.obj B

Note: The following definitions were not unfolded because their definition is not exposed:
  indFDRep ↦ 5
  indFDRepFunctor ↦ 7
```

Any equation whose left-hand side is `indFDRepFunctor.map f` has type `indFDRepFunctor.obj A ⟶ indFDRepFunctor.obj B`, so stating it at all requires `indFDRepFunctor.obj A` to reduce to `indFDRep A` — which requires exposure. There is no annotation-free formulation short of conjugating both sides by `eqToHom`, which would be a worse API than the one this rubric asked for. This is also the repo's existing idiom for exactly this shape: `@[expose] noncomputable def pointsFunctor` in `TauCeti/Algebra/AlgebraicGroup/PointsFunctor.lean:101`, with the morphism part factored out as `mapPoints` and the laws as `mapPoints_id` / `mapPoints_comp` — which is the shape this commit adopts.

For the record on the round-to-round reading: the previous api-design finding on this thread required `Add @[simps obj map] to indFDRepFunctor (or equivalent explicitly named, appropriately annotated projection lemmas)`, and both forms need the definition exposed. This commit keeps that API and removes the implementation from what exposure publishes, which is the strongest form of both requirements that the module system admits.

No proof regressed: `indFDRepMap_id`, `indFDRepMap_comp` and the naturality of `indFDRepForgetNatIso` still go through `forget₂_map_indFDRepMap` and cancellation of `indFDRepForgetIso`, with no `rfl` closer, so the single appeal to definitional equality remains isolated in `indFDRepForgetIso`.

Verified at 1b16055e: `lake build` — `Build completed successfully (5649 jobs).`; `lake exe axioms` — `axioms: audited 13507 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound].`; `bash scripts/lint-env.sh` — `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable).` (simpNF accepts the new `@[simp]` lemma `forget₂_map_indFDRepMap` and both `@[simps]` projections.)

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `1b16055`; this clears the finding ✅ — approved on `1b16055`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670869294.</sub>

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `1b16055`; this clears the finding ✅ — approved on `1b16055`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3670742692.</sub>

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### ✅ scope — now passing on `62e8c93`.

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: Contesting this one: the roadmap does not make the Layer 0 projection formula a prerequisite of this target, and it says so in its own words.

**1. The roadmap's `Ordering` section states exactly what Layer 2 needs, and the projection formula is not in it.** `RepresentationTheory/InductionRestriction/README.md:516-518`:

> Layer 2 (induced characters, Frobenius reciprocity) needs Layer 1's conjugate character **only for the reciprocity corollaries**, and needs **the finite-dimensionality result as its own first target**.

That sentence is the roadmap resolving precisely the question this finding raises. The general clause the finding leans on ("both are prerequisites for everything downstream", line 516) is immediately refined by the same paragraph into what each later layer actually consumes: Layer 3a "needs only Layers 0-1", Layer 4 "needs Layer 2's Frobenius reciprocity and Layer 3's decomposition", Layer 6 "needs Layer 2's induced-character formula ... and Layer 0's projection formula for the `R(G)`-module structure". Layer 0's projection formula is named as a prerequisite for Layer 6, and for the Mackey summands in Layer 3a; it is nowhere named as a prerequisite for Layer 2, and least of all for Layer 2's *first* target.

**2. The roadmap classifies this result as Layer 2's own target, not as something downstream of Layer 0.** Standing conventions, line 71-72:

> the finiteness needed to take a trace (induction of a finite-dimensional representation of a finite-index subgroup is finite-dimensional) **is itself a target of Layer 2**.

**3. The construction route the roadmap prescribes uses no Layer 0 material.** Layer 2's first bullet (lines 243-250) specifies: build the named `k`-linear equivalence from the coinvariants presentation of `Representation.ind`, derive `finrank k (Ind_S^G A) = S.index * finrank k A`, and package `indFDRep` with an isomorphism to `Rep.ind S.subtype` under the forgetful functor. That is what this PR does, and it needs neither transitivity nor the projection formula, only Mathlib's `Rep.indCoindIso` and `Representation.coindV`.

**4. Empirically, the PR consumes nothing from any earlier layer.** `TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:7-9` imports exactly three Mathlib modules:

```
public import Mathlib.LinearAlgebra.Dimension.Constructions
public import Mathlib.RepresentationTheory.FDRep
public import Mathlib.RepresentationTheory.FiniteIndex
```

`grep -c 'TauCeti\.' TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean` returns `0`: the file references no other TauCeti declaration at all. So nothing is being built on a stubbed, weakened, or substituted stand-in for an absent prerequisite; the rubric's failure mode ("material built for a later stage while its stated prerequisite stage is absent") has no purchase here because no prerequisite is being consumed.

**5. Layer 0's stage is not absent.** Layer 0 has three targets: restriction functorial in the map, transitivity of induction/coinduction, and the projection formula. The first two are on `main` as `TauCeti/RepresentationTheory/Induction/Transitivity.lean`; Layer 1 is on `main` as `Conjugate.lean`. The projection formula is one target *within* Layer 0, and (per point 1) it is a prerequisite for Layers 3a and 6, not for this one.

**6. This PR delivers the pinned target itself, not periphery.** `RepresentationTheory/InductionRestriction/Suggested.lean:103` pins `indFDRep`, line 106 pins `finrank_indFDRep`; both are discharged here, and both are direct inputs to line 115's `character_indFDRep_sum_quotient`. On the rubric's "weigh advancement" test, the target's own statement moves from `sorry` to proved.

**7. This rubric approved the same claim one commit ago.** Round 2 approved on `1a1dcb8` with "The PR directly implements the cited Layer 2 finite-dimensional induction target as one coherent unit." The only change from `1a1dcb8` to `1b16055` is `refactor: name the morphism map of the FDRep induction functor`: it extracts `indFDRepMap` out of `indFDRepFunctor` and adds `forget₂_map_indFDRepMap`, `indFDRepMap_id`, `indFDRepMap_comp`, in response to an `api-design` finding. It adds no mathematical content and changes no roadmap claim, so it cannot have changed roadmap fit.

Finally, neither suggested fix is available inside this PR under the repo rules: adding the projection formula here would make the PR two topics, which this same rubric blocks, and revising the roadmap ordering is a human action in a different repository. Leaving the code unchanged.

Comment (kim-em) [reply TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: **Re: your reply on `scope` —** re-reviewed on `1b16055`; this clears the finding ✅ — approved on `1b16055`.

<sub>`claude/claude-opus-4-8` · addresses your replies through comment 3670945315.</sub>

Comment (kim-em) [inline TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:1]: ### 🟡 naming — request_changes  `claude/claude-opus-4-8`

Names describe conclusions in standard terminology and no notation is introduced. Only issue: the two action-transport lemmas spell the representation action `.ρ` as `rho`, breaking with Mathlib's `_ρ_apply` convention for the same field.

- `TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:115` — `coindSubtypeEquivPi_rho_apply` spells the `.ρ` action as `rho`; Mathlib names lemmas about this field with the Greek letter `ρ`. _Fix:_ Rename to `coindSubtypeEquivPi_ρ_apply`.
- `TauCeti/RepresentationTheory/Induction/FiniteDimensional.lean:175` — `indSubtypeEquivPi_rho_apply` has the same `rho`-vs-`ρ` inconsistency. _Fix:_ Rename to `indSubtypeEquivPi_ρ_apply`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-4-8` · 127s · 21 in / 9.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/648c600d38e696cc033982185ac2f44695e0a58d...1b16055eb53e7cba4c9c4e6a963d43d335376632) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md)</sub>
